US06265434B1
Step A: 1-(Prop-2-enyl)-3-(R)-(hydroxymethyl)-4-(S)-(3-thienyl) pyrrolidine
The title compound was prepared from trans-3-(3-thienyl)acrylic acid using procedures analogous to those described in EXAMPLE 1, Steps A-C, substituting N-methoxymethyl-N-trimethylsilylmethyl(prop-2-enyl)amine for N-methoxymethyl-N-trimethylsilylmethylbenzyl amine in Step B. For the title compound: 1H NMR (500 MHz) δ 2.30-2.34 (m, 1H), 2.44 (t, J=8.5, 1H), 2.67 (t, J=9.0, 1H), 2.77 (dd, J=5.0, 9.0, 1H), 3.02-3.15 (4H), 3.53 (dd, J=7.5, 10.0, 1H), 3.64 (dd, J=5.0, 10.0, 1H), 5.07 (d, J=10.0, 1H), 5.17 (d, J=17.5, 1H), 5.83-5.91 (m, 1H), 6.97-6.99 (2H), 7.20-7.22 (m, 1H); ESI-MS 224 (M+H).

reactant | trans-3-(3-thienyl)acrylic acid | S1C=C(C=C1)/C=C/C(=O)O | C7H6O2S
reactant | N-methoxymethyl-N-trimethylsilylmethylbenzyl amine | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
product | 1-(Prop-2-enyl)-3-(R)-(hydroxymethyl)-4-(S)-(3-thienyl) pyrrolidine | C(C=C)N1C[C@@H]([C@H](C1)C1=CSC=C1)CO | C12H17NOS
